US06184242B2
4-(4-bromomethylbenzoyl)-nitrobenzene (500 mg) was dissolved in dichloromethane (5 mL) and stirred under argon. A solution of trifluoromethanesulfonic acid (0.27 mL) in dichloromethane (2 mL) was added dropwise, followed by a solution of triethylsilane (0.37 mL) in dichloromethane (2 mL). After 5 minutes, a second portion of trifluoromethanesulfonic acid and triethylsilane (same proportions) was added. The reaction mixture was stirred at room temperature for 3 hours, poured into excess aqueous sodium bicarbonate, and extracted with dichloromethane (3×). The solution containing the crude product was evaporated, chromatographed on silica gel, eluting the product with hexane/ethyl acetate, and evaporated to dryness, to give 4-(4-bromomethylbenzyl)-nitrobenzene (270 mg, 56%).

reactant | 4-(4-bromomethylbenzoyl)-nitrobenzene | 500 mg | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H10BrNO3
reactant | trifluoromethanesulfonic acid | 0.27 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | triethylsilane | 0.37 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(4-bromomethylbenzyl)-nitrobenzene | 270 mg, 56% | BrCC1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12BrNO2
